### PR TITLE
Attribute to control scheme declaration

### LINKED ISSUE #19480: Attribute for `Unset Elimination Schemes`
### Is your feature request related to a problem?

Currently there is the `Unset Elimination Schemes` command to disable the generation of induction schemes. It would be much nicer, and follow recent practice in Coq, if there is an attribute instead.

**Motivating example:** Coq does not generate the right induction schemes for nested recursive data types, requiring one to define the induction scheme itself. It is desirable that the `induction` tactic uses my custom induction scheme, instead of the default one (which is too weak). Given an inductive `foo` I can do that by disabling the generation of the default induction scheme, and prove `foo_ind` myself. Then `induction` uses the right induction scheme without the need for a `using` clause. Here's an example:

```coq
Section val.
  Local Unset Elimination Schemes. (* Only applies to inductives in this section *)
  Inductive val :=
    | VNat (n : nat)
    | VClo (x : string) (E : env) (e : expr)
    | VRecord (vs : gmap string val). (* nested recursive occurrence of val below std++'s gmap for association lists *) 
End val.

Lemma val_ind (P : val → Prop) :
  (∀ n, P (VNat n)) →
  (∀ x E e, P (VClo x E e)) →
  (∀ vs, map_Forall (λ _, P) vs → P (VRecord vs)) →
  (∀ v, P v).
Proof. (* ... *) Qed.
```

### Proposed solution

The above where I have to put the inductive in a section is clearly clunky. It would be better if I could do:

```coq
#[elimination schemes=no]
Inductive val :=
  | VNat (n : nat)
  | VClo (x : string) (E : env) (e : expr)
  | VRecord (vs : gmap string val). (* nested recursive occurrence of val below std++'s gmap for association lists *) 
```

### Alternative solutions

Instead of using a section, one could also use:

```coq
Unset Elimination Schemes.
Inductive val := ...
Set Elimination Schemes.
```

This is clunky too.

### Additional context

_No response_

### PR DESCRIPTION
**Pull request by SkySkimmer**
Close #19480

For now only 2 values: `none` and `default`.

Not sure if `default` should obey flag Elimination Schemes (such that no attribute == default)
or if it should produce schemes regardless
(such that Elimination Schemes controls whether no attribute == no or == default)

Currently implemented is no attribute == default, the other option is more complex as eg unsetting elim schemes ut setting rewrite schemes does produce rewrite schemes.

EDIT after some thought IMO the current meaning of `default` should be fine.

Overlays:
- https://github.com/LPCIC/coq-elpi/pull/906

### CODE REVIEW

**Comment by robbertkrebbers** [comment]
Thanks a lot, this is a very useful feature.

> Currently implemented is no attribute == default, the other option is more complex as eg unsetting elim schemes ut setting rewrite schemes does produce rewrite schemes.

I don't quite understand this.

**Comment by SkySkimmer** [comment]
also should it be `no` or `none`?

File: test-suite/success/Scheme.v [hunk 1]
```diff
@@ -61,3 +61,49 @@ Proof.
...
+  Unset Elimination Schemes.
+
+  #[schemes=no]
+    Inductive foo3 := Foo3.
+  Fail Check foo3_ind.
+
+  (* XXX should default ignore Elimination Schemes? *)
+  #[schemes=default]
+    Inductive foo4 := Foo4.
+  Fail Check foo4_ind.
```
Comment (SkySkimmer) [inline test-suite/success/Scheme.v:87]: >I don't quite understand this.

It's about what this case (`Unset Elimination Schemes` + `schemes=default`) should do.

**Comment by SkySkimmer** [comment]
>also should it be no or none?

any opinions on this?

**Comment by Matafou** [comment]
HI. Given that the attribute is a plural, does it mean that one can give
several schemes?




Le mer. 8 oct. 2025 à 15:05, Gaëtan Gilbert ***@***.***> a
écrit :

**Comment by SkySkimmer** [comment]
In the future probably, but not in the current PR

**Comment by Matafou** [comment]
If this is the plan then IMHO `#[schemes]` should specify **what scheme(s)** should be generated and `Set/Unset Elimination Schemes` specifies **whether** we generate them. With this semantic : `Unset Elimination Schemes + anything` would not generate any scheme.

**Comment by SkySkimmer** [comment]
That's not how it works currently and I don't think it's worth changing.

**Comment by JasonGross** [comment]
> also should it be `no` or `none`?

I would go with "none", which I think fits more nicely with, in the future, specifying specific schemes

**Comment by SkySkimmer** [comment]
changed to `none`

Another question: when we become able to specify multiple schemes the syntax can't be `schemes=rewriting,equality` (that's not valid attribute syntax) so it would have to be `schemes(rewriting,equality)`. So should we match that for `default` and `none` or should we keep `schemes=none` / `schemes=default`?

**Comment by JasonGross** [comment]
> `schemes(rewriting,equality)`. So should we match that for `default` and `none` or should we keep `schemes=none` / `schemes=default`?

This I have no strong opinion on.

**Review by ppedrot — APPROVED** [review]

**Comment by ppedrot** [comment]
I'll leave a little bit of time if people want to comment before merging.

**Comment by ppedrot** [comment]
@coqbot merge now
